US06808862B2
In 100 ml of acetonitrile was dissolved 11.8 g of tetrahydrothiophene, to the solution was gradually added 20 g of 1-bromo-3,3-dimethyl-2-butanone. The mixture was stirred at room temperature for 2 days to deposit powder. After adding 100 ml of ethyl acetate to the reaction solution, the powder was collected by filtration, washed with ethyl acetate and dried to obtain 24 g of 2-oxo-3,3-dimethylbutyltetrahydrothiophenium bromide.

reactant | tetrahydrothiophene | 11.8 g | S1CCCC1 | C4H8S
reactant | 1-bromo-3,3-dimethyl-2-butanone | 20 g | BrCC(C(C)(C)C)=O | C6H11BrO
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 2-oxo-3,3-dimethylbutyltetrahydrothiophenium bromide | 24 g | [Br-].O=C(C[S+]1CCCC1)C(C)(C)C | InChI=1S/C10H19OS.BrH/c1-10(2,3)9(11)8-12-6-4-5-7-12;/h4-8H2,1-3H3;1H/q+1;/p-1
